### PR TITLE
[Merged by Bors] - feat: group generated by a finite-order submonoid element

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
This was split from #6629 after @tb65536's golf, the construction here now no longer needed there. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 1]
```diff
@@ -452,6 +452,20 @@ theorem powers_one : powers (1 : M) = ⊥ :=
   bot_unique <| powers_subset (one_mem _)
 #align submonoid.powers_one Submonoid.powers_one
 
+/-- The submonoid generated by an element is a group if that element has finite order. -/
+def groupOfPowers {x : M} {n : ℕ} (hpos : 0 < n) (hx : x ^ n = 1) : Group (powers x) where
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:456]:
```suggestion
@[to_additive "The additive submonoid generated by an element is an additive group if that element has finite order."]
abbrev groupOfPowers {x : M} {n : ℕ} (hpos : 0 < n) (hx : x ^ n = 1) : Group (powers x) where
```
with line wrapping

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 2]
```diff
@@ -452,6 +452,14 @@ theorem powers_one : powers (1 : M) = ⊥ :=
...
+  inv x := x ^ (n - 1)
+  mul_left_inv y := Subtype.ext <| by
+    obtain ⟨_, k, rfl⟩ := y
+    dsimp
+    rw [← pow_succ', Nat.sub_add_cancel hpos, ← pow_mul, mul_comm, pow_mul, hx, one_pow]
+
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:462]: It would be cool to also show
```suggestion
  zpow z x := x ^ z.natMod n
  zpow_zero' z := by simp only [Int.natMod, Int.zero_emod, Int.toNat_zero, pow_zero]
  zpow_neg' n x := Subtype.ext <| by
    obtain ⟨_, k, rfl⟩ := x
    simp [←pow_mul]
    sorry
  zpow_succ' n x := Subtype.ext <| by
    obtain ⟨_, k, rfl⟩ := x
    simp [←pow_mul]
    sorry

```
which I'm pretty sure is true!

Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:478]: Done!

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 3]
```diff
@@ -452,6 +452,30 @@ theorem powers_one : powers (1 : M) = ⊥ :=
   bot_unique <| powers_subset (one_mem _)
 #align submonoid.powers_one Submonoid.powers_one
 
+/-- The submonoid generated by an element is a group if that element has finite order. -/
+abbrev groupOfPowers {x : M} {n : ℕ} (hpos : 0 < n) (hx : x ^ n = 1) : Group (powers x) where
+  inv x := x ^ (n - 1)
+  mul_left_inv y := Subtype.ext <| by
+    obtain ⟨_, k, rfl⟩ := y
+    dsimp
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:460]: This is a non-terminal (d)simp and should be squeezed / captured with `suffices` or dealt with in some other way. See:

https://leanprover-community.github.io/extras/simp.html#non-terminal-simps
https://leanprover-community.github.io/extras/simp.html#dsimp

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 4]
```diff
@@ -452,6 +452,30 @@ theorem powers_one : powers (1 : M) = ⊥ :=
...
+    rw [← pow_succ', Nat.sub_add_cancel hpos, ← pow_mul, mul_comm, pow_mul, hx, one_pow]
+  zpow z x := x ^ z.natMod n
+  zpow_zero' z := by simp only [Int.natMod, Int.zero_emod, Int.toNat_zero, pow_zero]
+  zpow_neg' m x := Subtype.ext <| by
+    obtain ⟨_, k, rfl⟩ := x
+    simp [← pow_mul, Int.natMod]
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:466]: Again, non-terminal `simp`.

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 5]
```diff
@@ -452,6 +452,30 @@ theorem powers_one : powers (1 : M) = ⊥ :=
...
+    rw [Int.negSucc_coe, ← Int.add_mul_emod_self (b := (m + 1 : ℕ))]
+    nth_rw 1 [← mul_one ((m + 1 : ℕ) : ℤ)]
+    rw [← sub_eq_neg_add, ← mul_sub, ← Int.coe_pred_of_pos hpos]; norm_cast
+    simp only [Int.toNat_coe_nat]
+    rw [mul_comm, pow_mul, ← pow_eq_pow_mod _ hx, mul_comm k, mul_assoc, pow_mul _ ((m + 1) % n),
+      ← pow_eq_pow_mod _ hx, pow_mul, pow_mul]
+  zpow_succ' m x := Subtype.ext <| by
+    obtain ⟨_, k, rfl⟩ := x
+    simp [← pow_mul, Int.natMod]; norm_cast
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:475]: Again, non-terminal `simp`.

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/Submonoid/Membership.lean]: All done, but the `squeeze_simp` tactic doesn't exist in Lean 4 so I had to do it manually!

Comment (alreadydone) [reply Mathlib/GroupTheory/Submonoid/Membership.lean]: It's just `simp?` in Lean 4 ...

Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/Submonoid/Membership.lean]: Well I did use `simp?`

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 6]
```diff
@@ -452,6 +452,31 @@ theorem powers_one : powers (1 : M) = ⊥ :=
   bot_unique <| powers_subset (one_mem _)
 #align submonoid.powers_one Submonoid.powers_one
 
+/-- The submonoid generated by an element is a group if that element has finite order. -/
+abbrev groupOfPowers {x : M} {n : ℕ} (hpos : 0 < n) (hx : x ^ n = 1) : Group (powers x) where
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:456]:
```suggestion
instance IsOfFinOrder.groupOfPowers {x : M} (hx : IsOfFinOrder x) : Group (powers x) where
```

**Review by ocfnash — COMMENTED** [review]
I also suggest relocating this to the file `GroupTheory.OrderOfElement`.

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:456]: But then I get the following error:
```
abbrev IsOfFinOrder.groupPowers (hx : IsOfFinOrder x) : Group (Submonoid.powers x) where
  inv z := by
    obtain ⟨n, _⟩ := ((isOfFinOrder_iff_pow_eq_one x).1 hx)
    exact z ^ (n - 1)
  ...
```
```
tactic 'cases' failed, nested error:
tactic 'induction' failed, recursor 'Exists.casesOn' can only eliminate into Prop
```

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 7]
```diff
@@ -118,6 +118,37 @@ theorem isOfFinOrder_one : IsOfFinOrder (1 : G) :=
 #align is_of_fin_order_one isOfFinOrder_one
 #align is_of_fin_order_zero isOfFinAddOrder_zero
 
+open Submonoid in
+/-- The submonoid generated by an element is a group if that element has finite order. -/
+@[to_additive "The additive submonoid generated by an element is an additive group
+if that element has finite order."]
+noncomputable abbrev IsOfFinOrder.groupPowers (hx : IsOfFinOrder x) : Group (powers x) where
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/OrderOfElement.lean:125]: As discussed on Zulip, I think we should split this into
```suggestion
abbrev Submonoid.groupPowersOfPow (hn : 0 < n) (hx : x ^ n = 1) : Group (powers x) where
```
and
```suggestion
noncomputable abbrev IsOfFinOrder.groupPowers (hx : IsOfFinOrder x) : Group (powers x) :=
   Submonoid.groupPowersOfPow
     ((isOfFinOrder_iff_pow_eq_one x).1 hx).choose_spec.1
     ((isOfFinOrder_iff_pow_eq_one x).1 hx).choose_spec.2
```

Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/OrderOfElement.lean]: Done (without seeing this comment prior).

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 8]
```diff
@@ -452,6 +452,31 @@ theorem powers_one : powers (1 : M) = ⊥ :=
...
+    rw [← sub_eq_neg_add, ← mul_sub, ← Int.coe_pred_of_pos hpos]; norm_cast
+    simp only [Int.toNat_coe_nat]
+    rw [mul_comm, pow_mul, ← pow_eq_pow_mod _ hx, mul_comm k, mul_assoc, pow_mul _ (_ % _),
+      ← pow_eq_pow_mod _ hx, pow_mul, pow_mul]
+  zpow_succ' m x := Subtype.ext <| by
+    obtain ⟨_, k, rfl⟩ := x
+    simp only [← pow_mul, Int.natMod, Int.ofNat_eq_coe, SubmonoidClass.coe_pow, coe_mul]
+    norm_cast
+    iterate 2 rw [Int.toNat_coe_nat, mul_comm, pow_mul, ← pow_eq_pow_mod _ hx]
+    rw [← pow_mul _ m, mul_comm, pow_mul, ← pow_succ, ← pow_mul, mul_comm, pow_mul]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:478]: Is there a missing lemma about `Int.natMod` here?

Comment (Parcly-Taxel) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:478]: I don't know; this is the shortest I could manage. The main problem is juggling coercions.

**Comment by ocfnash** [comment]
bors merge
